* Z:\mnt\design.r\spice\examples\3783.asc
M§Q1 N003 N009 N008 N008 Si4470DY
R1 N010 0 100K
R2 N015 0 20K
C1 N014 0 .01µ
V1 IN 0 17.5
XU1 IN N001 N010 N007 N015 MP_01 N011 N012 N009 N005 IN N008 N014 N006 N013 N004 0 LTC3783
L1 IN N003 10µ
C2 N005 0 4.7µ
R3 N001 IN .3
C3 N013 0 .01µ
R4 N007 N010 100K
R5 IN N004 1Meg
R6 N008 0 50m
C4 0 N002 5µ
R7 N002 N006 40.2K
R8 N006 0 1.6K
D1 N002 N001 LXHL-BW02
D5 N003 N002 MBRS340
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 500u startup
.lib LTC3783.sub
.backanno
.end
